US07199150B2
3-(3,4-Dimethylphenyloxy)-1-propyne
The title compound was synthesized using 3,4-dimethylphenol and propargyl alcohol by conducting a reaction similar to that mentioned in Reference example 35.

reactant | 3,4-dimethylphenol | CC=1C=C(C=CC1C)O | C8H10O
reactant | propargyl alcohol | C(C#C)O | C3H4O
product | 3-(3,4-Dimethylphenyloxy)-1-propyne | CC=1C=C(C=CC1C)OCC#C | C11H12O
